US05128327
Step F: 7-Methyl-2-propyl-3-[[4-[3-(1H-tetrazol-5-yl)-4-pyridinyl]phenyl]methyl]imidazo[4,5-b]pyridine.
A solution of 7-methyl-2-propyl-3-[[4-(3-cyanopyridin-4-yl)phenyl]methyl]imidazo[4,5-b]pyridine (50 mg, 0.136 mmol) and trimethylstannylazide (84 mg, 0.408 mmol) in toluene (4 mL) was heated to reflux for 4 days. The mixture was cooled to rt, concentrated, then purified by flash chromatography on SiO2 (80/20/1 CH2Cl2 /MeOH/NH4OH) to give the product as a white solid.

reactant | 7-methyl-2-propyl-3-[[4-(3-cyanopyridin-4-yl)phenyl]methyl]imidazo[4,5-b]pyridine | 0.136 mmol, 50 mg | CC1=C2C(=NC=C1)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=NC=C2)C#N | C23H21N5
reactant | trimethylstannylazide | 0.408 mmol, 84 mg | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Methyl-2-propyl-3-[[4-[3-(1H-tetrazol-5-yl)-4-pyridinyl]phenyl]methyl]imidazo[4,5-b]pyridine | CC1=C2C(=NC=C1)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=NC=C2)C2=NN=NN2 | C23H22N8
